US08877780B2
To a stirred mixture of 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (1.00 g, 3.20 mmol) and 4-(trifluoromethyl)benzoyl chloride (0.67 g, 3.20 mmol) in N,N-dimethylformamide (25 mL), was added triethylamine (0.90 mL, 6.40 mmol) at room temperature under nitrogen. After 1 h, 1N aq. HCl (50 mL) was added and the mixture was stirred for 10 min. The product was isolated by filtration, washed with 1N aq. HCl (50 mL), ethyl acetate (50 mL) and dried overnight in vacuo to give N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-trifluoromethyl-benzamide as a white solid (0.70 g, 49% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 3.75 min (95.6%); mp: 241-243° C.; 1H NMR (DMSO-d6) δ 1.92-2.14 (m, 1H), 2.29-2.48 (m, 1H), 2.54-2.67 (m, 1H), 2.80-3.04 (m, 1H), 4.31 (d, J=17.4 Hz, 1H), 4.45 (d, J=17.6 Hz, 1H), 4.62 (d, J=5.9 Hz, 2H), 5.11 (dd, J=5.1, 13.2 Hz, 1H), 7.49 (d, J=7.9 Hz, 1H), 7.56 (s, 1H), 7.71 (d, J=7.7 Hz, 1H), 7.88 (d, J=8.3 Hz, 2H), 8.11 (d, J=8.1 Hz, 2H), 9.39 (s, 1H), 10.99 (s, 1H); 13C NMR (DMSO-d6) δ 22.50, 31.19, 42.87, 47.13, 51.59, 122.15, 122.97, 123.90 (q, J=270 Hz), 125.38 (q, J=3.5 Hz), 127.13, 128.21, 130.47, 131.23 (q, J=31.6), 137.92, 142.42, 143.53, 165.14, 167.91, 170.98, 172.85; LCMS: MH=446; Anal Calcd for C22H18N3O4F3+0.35H2O: C, 58.50; H, 4.17; N, 9.30. Found: C, 58.55; H, 3.81; N, 9.18.

reactant | 3-(5-Aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 3.20 mmol, 1.00 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 4-(trifluoromethyl)benzoyl chloride | 3.20 mmol, 0.67 g | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
reactant | triethylamine | 6.40 mmol, 0.90 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N, 50 mL | Cl | ClH
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-4-trifluoromethyl-benzamide | 0.70 g, 49% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)CNC(C1=CC=C(C=C1)C(F)(F)F)=O)=O)=O | C22H18F3N3O4
